US09328124B2
N-[(4-Methoxyphenyl)methyl]hydroxylamine hydrochloride
[tert-Butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]tert-butyl carbonate (1.125 Kg, 3.1 mol) is dissolved in 1,4-dioxane (2.8 L) and a hydrogen chloride solution (4 M in dioxane, 3.15 L, 12.4 mol) is added drop wise over 1 hour 30 minutes. The solution is stirred at room temperature overnight. The title product is collected by filtration as white solid (488.0 g, 81%). 1H NMR (d6-DMSO) δ 11.71 (s, 2H), 10.94 (s, 1H), 7.44 (d, J=8.8 Hz, 2H), 6.95 (d, J=8.8 Hz, 2H), 4.22 (s, 2H), 3.75 (s, 3H).

reactant | [tert-Butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]tert-butyl carbonate | 3.1 mol, 1.125 Kg | C(OC(CN(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)(C)C)([O-])=O
reactant | hydrogen chloride | 12.4 mol, 4 M, 3.15 L | Cl | ClH
reactant | 1,4-dioxane | 2.8 L | O1CCOCC1 | C4H8O2
product | N-[(4-Methoxyphenyl)methyl]hydroxylamine hydrochloride | Cl.COC1=CC=C(C=C1)CNO | InChI=1S/C8H11NO2.ClH/c1-11-8-4-2-7(3-5-8)6-9-10;/h2-5,9-10H,6H2,1H3;1H
